US08802679B2
To 80% ethylamine/MeOH (1.1 g) was added 1-bromo-3-(bromomethyl)benzene (1 g) in five divided portions at room temperature, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the obtained residue was subjected to liquid separation with chloroform and a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, and then the aqueous layer was extracted with CHCl3 again. These organic layers were combined, dried over Na2SO4, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica, 3% MeOH/CHCl3) to obtain N-(3-bromobenzyl)ethanamine (610 mg) as a colorless oil.

reactant | ethylamine MeOH | 1.1 g | C(C)N.CO
reactant | 1-bromo-3-(bromomethyl)benzene | 1 g | BrC1=CC(=CC=C1)CBr | C7H6Br2
product | N-(3-bromobenzyl)ethanamine | 610 mg | BrC=1C=C(CNCC)C=CC1 | C9H12BrN
